US07223776B2
59.c) tert-Butyl 5-{[(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-amino]-methyl}-3,6-dihydro-2H-pyridine-1-carbamate
A solution of tert-butyl 5-aminomethyl-3,6-dihydro-2H-pyridine-1-carbamate (0.7 g, 3.3 mmol) and 1,4-benzodioxane-6-carbaldehyde (0.54 g, 3.3 mmol) in THF (2 ml) and DCE (4 ml) was stirred at room temperature for 1 hour. Sodium triacetoxyborohydride (0.770 g, 3.81 mmol) was then added thereto. The reaction mixture was stirred at room temperature for 5 hours and filtered through Hydromatrix (wetted with saturated NaHCO3 solution) and the filtrate was concentrated. The residue was purified by chromatography on silica gel (EtOAc/hex 2/1 and then EtOAc/MeOH 9/1).

reactant | tert-butyl 5-aminomethyl-3,6-dihydro-2H-pyridine-1-carbamate | 3.3 mmol, 0.7 g | NCC1=CCCN(C1)NC(=O)OC(C)(C)C | C11H21N3O2
reactant | 1,4-benzodioxane-6-carbaldehyde | 3.3 mmol, 0.54 g | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
reactant | Sodium triacetoxyborohydride | 3.81 mmol, 0.770 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | DCE | 4 ml | ClCCCl | C2H4Cl2
product | tert-Butyl 5-{[(2,3-dihydro-benzo[1,4]dioxin-6-ylmethyl)-amino]-methyl}-3,6-dihydro-2H-pyridine-1-carbamate | O1CCOC2=C1C=CC(=C2)CNCC2=CCCN(C2)NC(=O)OC(C)(C)C | C20H29N3O4
